US03962224
Dibutyl N-benzylidene-aminomethylphosphonate (31.1 g) is dissolved in anhydrous tetrahydrofuran (500 ml) and the solution is cooled to -78° under a nitrogen atmosphere. Butyllithium (46 ml of a 2.2 M solution in hexane) is added over a period of 5 minutes. The resulting solution is stirred an additional 30 minutes at -78°, then treated dropwise over a period of 45 minutes with p-bromophenacyl chloroformate (13.9 g) in tetrahydrofuran (100 ml). The reaction mixture is stirred an additiona 2 hours at -78° followed by gradual warming to 3° over a period of 30 minutes. Evaporation of the solvent in vacuo leaves a gum which is partitioned between ether (500 ml) and 0.5 M pH 3 phosphate buffer (100 ml). The ethereal phase is separated, washed with water and saturated brine, dried over magnesium sulfate filtered, and evaporated in vacuo to an oil. Chromatographic purification of this material on silica gel gives p-bromophenacyl N-benzylidene-α-amino-dibutylphosphonoacetate.

reactant | Dibutyl N-benzylidene-aminomethylphosphonate | 31.1 g | C(C1=CC=CC=C1)=NCP(OCCCC)(OCCCC)=O | C16H26NO3P
reactant | Butyllithium | C(CCC)[Li]
reactant | p-bromophenacyl chloroformate | 13.9 g | ClC(=O)OCC(=O)C1=CC=C(C=C1)Br | C9H6BrClO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | p-bromophenacyl N-benzylidene-α-amino-dibutylphosphonoacetate | C(C1=CC=CC=C1)=NC(C(=O)OCC(=O)C1=CC=C(C=C1)Br)P(=O)(OCCCC)OCCCC | C25H31BrNO6P
